US07919630B2
5-(α-Methylbenzyl)-2-thiohydantoin
CuI (0.019 g, 0.00010 mol) was suspended in 8 mL of THF in a flask equipped with a septum, a magnetic stirrer, and nitrogen pressure. To this was added 1,4-bis(diphenylphosphino)butane (DPPB) (0.085 g, 0.00020 mol). The mixture was stirred for 5 min, and then a 3 M methylmagnesium chloride (1.7 mL, 0.0050 mol) in THF was added by syringe. After 5 additional min, the flask was immersed in an ice-water bath. The 3-allyl-5-benzylidenethiohydantoin (0.49 g, 0.0020 mol) was added as a solid in 1 portion. After 45 min the reaction mixture was diluted with 10 mL of THF and 25 mL of saturated aqueous NH4Cl. The layers were separated, and the organic layer was concentrated in vacuo. The residue was mixed with 5 mL of methanol. The resulting solid was filtered off under vacuum. The filter cake was washed w 2×1 mL of methanol, and the combined filtrates were concentrated at aspirator pressure and then high vacuum. The residue (0.51 g) was separated in 3 passes through Biotage 12 mm silica gel columns. A gradient of 0-10% EtOAc in hexanes with 9 mL fractions over 430 mL allowed recovery of 0.06 g of 1 of the diastereomers and 0.11 g of the other. The total amount recovered represented a 30% yield. Both HPLC traces and 60 MHz NMR spectra showed small amounts of the other isomer in each of these. NMR (1 isomer), (CDCl3) δ 7.8 (bs, 1H), 7.3 (s, 5H), 4.8-6.1 (m, 3H), 4.4 (m, 3H), 3.5 (m, 1H), 1.4 (d, 3H).

reactant | 1,4-bis(diphenylphosphino)butane | 0.00020 mol, 0.085 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | methylmagnesium chloride | 0.0050 mol, 3 M, 1.7 mL | C[Mg]Cl
reactant | 3-allyl-5-benzylidenethiohydantoin | 0.0020 mol, 0.49 g | C(C=C)N1C(NC(C1=O)=CC1=CC=CC=C1)=S | C13H12N2OS
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 25 mL | [NH4+].[Cl-]
catalyst | CuI | 0.00010 mol, 0.019 g | [Cu]I
product | 5-(α-Methylbenzyl)-2-thiohydantoin | 30% yield | CC(C1=CC=CC=C1)C1C(NC(N1)=S)=O | C11H12N2OS
